US08957068B2
To a solution of (R,E)-N-(4-(difluoromethyl)-2-fluorobenzylidene)-2-methylpropane-2-sulfinamide (266 mg, 0.959 mmol) in DCM (9.6 mL) was added methylmagnesium bromide (3M in diethylether; 1.20 mL) at 0° C. The reaction mixture was allowed to stir for 30 min at 0° C., gradually allowed to warm to room temperature and stirred for 1 hour at room temperature. The mixture was cooled to 0° C., and carefully quenched with saturated aqueous NH4Cl solution (3 mL). The separated aqueous phase was extracted with DCM. The combined organic layers were washed with brine, dried over sodium sulfate, filtered off and concentrated under reduced pressure. The crude material was purified by column chromatography [SiO2, 40 g, heptane/ethyl acetate], providing (R)—N—((S)-1-(4-(difluoromethyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (160.5 mg) as a white solid. LCMS m/z 294.5 (M+H)+, Rt 0.85 min.

reactant | (R,E)-N-(4-(difluoromethyl)-2-fluorobenzylidene)-2-methylpropane-2-sulfinamide | 0.959 mmol, 266 mg | FC(C1=CC(=C(\C=N\[S@](=O)C(C)(C)C)C=C1)F)F | C12H14F3NOS
reactant | methylmagnesium bromide | 3M, 1.20 mL | C[Mg]Br
solvent | DCM | 9.6 mL | C(Cl)Cl | CH2Cl2
product | (R)—N—((S)-1-(4-(difluoromethyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 160.5 mg | FC(C1=CC(=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C)F)F | C13H18F3NOS
